US04845128
N-([(4-Bromophenyl)amino]carbonyl)-4-methoxybenzenesulfonamide
To a solution of 9.97 g of 4-methoxybenzenesulfonamide in 54 ml of acetone were added 54 ml of a 1N sodium hydroxide solution. With stirring, a solution of 11.55 g of 4-bromophenylisocyanate in 50 ml of acetone was added. After stirring at room temperature for three days, the reaction mixture was filtered and 55 ml of 1N hydrochloric acid were added to the filtrate providing a fine white precipitate. Two hundred milliliters of water were added, and the solid was recovered by filtration to provide 18.85 g of the desired title product.

reactant | 4-methoxybenzenesulfonamide | 9.97 g | COC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 4-bromophenylisocyanate | 11.55 g | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | water | Two hundred milliliters | O | H2O
solvent | acetone | 54 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-([(4-Bromophenyl)amino]carbonyl)-4-methoxybenzenesulfonamide | 18.85 g | BrC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)OC | C14H13BrN2O4S
